Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][c:5]([NH:6][CH:7]2[CH2:8][CH2:9][CH2:10][CH2:11]2)[n:12][cH:13][n:14]1.[NH2:15][c:16]1[cH:17][cH:18][c:19]([OH:20])[cH:21][cH:22]1>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([NH:6][CH:7]2[CH2:8][CH2:9][CH2:10][CH2:11]2)[n:12][cH:13][n:14]1)[NH:15][c:16]1[cH:17][cH:18][c:19]([OH:20])[cH:21][cH:22]1,[OH:101][C:1](=[O:2])[c:3]1[cH:4][c:5]([NH:6][CH:7]2[CH2:8][CH2:9][CH2:10][CH2:11]2)[n:12][cH:13][n:14]1.[NH2:15][c:16]1[cH:17][cH:18][c:19]([OH:20])[cH:21][cH:22]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([NH:6][CH:7]2[CH2:8][CH2:9][CH2:10][CH2:11]2)[n:12][cH:13][n:14]1)[NH:15][c:16]1[cH:17][cH:18][c:19]([OH:20])[cH:21][cH:22]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (15, 1), ([1, 2], 2), (303, 15.1), ([15.1, 15], 15), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[Br:3][CH2:2][CH2:1]Br.[SH:4][c:5]1[cH:6][cH:7][cH:8][s:9]1>>[CH2:1]([CH2:2][Br:3])[S:4][c:5]1[cH:6][cH:7][cH:8][s:9]1,[SH:4][c:5]1[cH:6][cH:7][cH:8][s:9]1.[Br:101][CH2:1][CH2:2][Br:3].[H-:301].[Na+]>>[CH2:1]([CH2:2][Br:3])[S:4][c:5]1[cH:6][cH:7][cH:8][s:9]1,SN2_alcohol(thiol),"[(301, 4.1), ([4.1, 4], 4), (4, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[c:2]([N+:3](=[O:4])[O-:5])[cH:6][cH:7][cH:8][cH:9]1.[SH:10][c:11]1[cH:17][cH:16][c:14]([Cl:15])[cH:13][cH:12]1>>[c:1]1([S:10][c:11]2[cH:12][cH:13][c:14]([Cl:15])[cH:16][cH:17]2)[c:2]([N+:3](=[O:4])[O-:5])[cH:6][cH:7][cH:8][cH:9]1,[F:101][c:1]1[c:2]([N+:3](=[O:4])[OH:5])[cH:6][cH:7][cH:8][cH:9]1.[SH:10][c:11]1[cH:12][cH:13][c:14]([Cl:15])[cH:16][cH:17]1.[H-:301].[Na+]>>[c:1]1([S:10][c:11]2[cH:12][cH:13][c:14]([Cl:15])[cH:16][cH:17]2)[c:2]([N+:3](=[O:4])[OH:5])[cH:6][cH:7][cH:8][cH:9]1,SNAr_alco(thi)ol(ortho),"[(301, 10.1), ([10.1, 10], 10), (10, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[N:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][cH:9][c:10]3[c:11]([NH2:12])[n:13][cH:14][cH:15][c:16]23)[CH2:17][CH2:18]1>>[NH:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][cH:9][c:10]3[c:11]([NH2:12])[n:13][cH:14][cH:15][c:16]23)[CH2:17][CH2:18]1,[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[N:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][cH:9][c:10]3[c:11]([NH2:12])[n:13][cH:14][cH:15][c:16]23)[CH2:17][CH2:18]1.[H+:301]>>[NH:1]1[CH2:2][CH2:3][CH:4]([NH:5][c:6]2[cH:7][cH:8][cH:9][c:10]3[c:11]([NH2:12])[n:13][cH:14][cH:15][c:16]23)[CH2:17][CH2:18]1,Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][cH:4][c:5]([N:6]([CH3:7])[CH3:8])[cH:9][c:10]1[N+:11](=[O:12])[O-:13])=[O:14].[NH2:15][CH:16]1[CH2:17][CH2:18][N:19]([CH:20]([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[CH2:33][CH2:34]1>>[C:1]([c:2]1[cH:3][cH:4][c:5]([N:6]([CH3:7])[CH3:8])[cH:9][c:10]1[N+:11](=[O:12])[O-:13])(=[O:14])[NH:15][CH:16]1[CH2:17][CH2:18][N:19]([CH:20]([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[CH2:33][CH2:34]1,[NH2:15][CH:16]1[CH2:17][CH2:18][N:19]([CH:20]([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[CH2:33][CH2:34]1.[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5]([N:6]([CH3:7])[CH3:8])[cH:9][c:10]1[N+:11](=[O:12])[OH:13])=[O:14].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5]([N:6]([CH3:7])[CH3:8])[cH:9][c:10]1[N+:11](=[O:12])[OH:13])(=[O:14])[NH:15][CH:16]1[CH2:17][CH2:18][N:19]([CH:20]([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[CH2:33][CH2:34]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (15, 1), ([1, 14], 14), (303, 15.1), ([15.1, 15], 15), (14, [14, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
